US07459554B2
3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester.
A solution of 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol (2.87 g, 10.2 mmol) in DMF was charged with Cs2CO3 (4.98 g, 15.3 mmol) and stirred at rt for 30 min. A DMF solution of methyl (3-bromomethyl)benzoate (2.33 g, 10.2 mmol) was added to the reaction mixture. The reaction mixture was stirred overnight at rt under nitrogen. The crude product was placed under high vacuum to remove the residual DMF. The product was then purified using silica gel column chromatography (1% NH3 in MeOH:CH2Cl2). The product was recrystalized with CH2Cl2 and hexanes to yield the title compounds as a white solid; 1H NMR (CDCl3, 400 MHz) δ 2.00-2.07 (m, 1H), 2.11-2.22 (m, 1H), 2.45-2.52 (m, 2H), 2.58-2.68 (m, 2H), 3.76-3.85 (m, 1H), 3.93 (s, 3H), 5.18 (s, 2H), 7.01-7.04 (m, 2H), 7.10-7.11 (m, 1H), 7.24-7.29 (m, 2H), 7.38-7.49 (m, 2H), 7.65 (d, J=7.6 Hz, 1H), 8.01 (d, J=8.0 Hz, 1H), 8.13 (s, 1H); MS (ES+): m/z 429.18 (100) [MH+].

reactant | 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol | 10.2 mmol, 2.87 g | NC=1C=2N(C=CN1)C(=NC2C=2C=C(C=CC2)O)C2CCC2 | C16H16N4O
reactant | Cs2CO3 | 15.3 mmol, 4.98 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | CN(C)C=O | C3H7NO
product | 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C=1N=C(N2C1C(=NC=C2)N)C2CCC2)=O | C25H24N4O3
